US04874856
To a solution of 1-hydroxybenzotriazole (223 mg, 1.44 mmol) and (Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetic acid (1.06 g, 1.44 mmol) in THF (14 ml) was added DCC (300 mg, 1.44 mmol) and the mixture was stirred for 1 hr at 5° C. Diphenylmethyl 7-amino-3-[(E)-acetoxy-1-propenyl]-3-cephem-4-carboxylate (670 mg, 1.44 mmol) was added to the mixture. After stirring for 4 hr at ambient temperature, the reaction mixture was filtered, diluted with ethyl acetate (50 ml) and washed with water. Concentration of the organic layer gave an oil, which was chromatographed on a column of silica gel. Elution with toluene-ethyl acetate (10:1) gave 1.607 g (99%) of diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(E)-3-acetoxy-1-propenyl]-3-cephem-4-carboxylate as an amorphous powder. IR νmax (KBr) cm-1 1770, 1730. 1H NMR (CDCl3) δ 2.0 (3H, s, OAc), 3.33 (2H, s, 2-H), 4.54 (2H, ABq, CH2OAc), 5.04 (1H, d, J=5 Hz, 6-H), 6.0 (1H, m, vinyl-H), 6.02 (1H, dd, J=5 & 7 Hz, 7-H), 6.40 (1H, s, thiazole-H), 6.82 (1H, d, J=15 Hz, vinyl-H), 7.00 (1H, s, Ph2CH), 7.3 (25H, s, Ph).

reactant | 1-hydroxybenzotriazole | 1.44 mmol, 223 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | (Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetic acid | 1.44 mmol, 1.06 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C43H33N3O3S
reactant | DCC | 1.44 mmol, 300 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | Diphenylmethyl 7-amino-3-[(E)-acetoxy-1-propenyl]-3-cephem-4-carboxylate | 1.44 mmol, 670 mg | NC1[C@@H]2N(C(=C(CS2)\C=C\COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C25H24N2O5S
solvent | THF | 14 ml | C1CCOC1 | C4H8O
product | diphenylmethyl 7-[(Z)-2-(2-tritylaminothiazol-4-yl)-2-trityloxyiminoacetamido]-3-[(E)-3-acetoxy-1-propenyl]-3-cephem-4-carboxylate | 1.607 g, 99% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC=1SC=C(N1)/C(/C(=O)NC1[C@@H]2N(C(=C(CS2)\C=C\COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C68H55N5O7S2
